US07687491B2
(25c) {5-[5-(3-Chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-6-ethylpyridin-2-yl}methanol
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 12 (12a) using 3-chloro-4-isobutylbenzoic acid (0.10 g, 0.48 mmol) that was obtained in Example 24 (24h), 1-hydroxybenzotriazole (69 mg, 0.51 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (97 mg, 0.51 mmol), 2-ethyl-N′-hydroxy-6-{[(triisopropylsilyl)oxy]methyl}pyridine-3-carboximidamide (0.16 g, 0.46 mmol) that was obtained in Example 25 (25b), and a 1.0 M solution of tetrabutylammonium fluoride in tetrahydrofuran (0.92 ml, 0.92 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:2) as the eluent to afford the title compound (0.15 g) in a yield of 89% as a white crystalline solid.

reactant | 3-chloro-4-isobutylbenzoic acid | 0.48 mmol, 0.10 g | ClC=1C=C(C(=O)O)C=CC1CC(C)C | C11H13ClO2
reactant | 1-hydroxybenzotriazole | 0.51 mmol, 69 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.51 mmol, 97 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-ethyl-N′-hydroxy-6-{[(triisopropylsilyl)oxy]methyl}pyridine-3-carboximidamide | 0.46 mmol, 0.16 g | C(C)C1=NC(=CC=C1C(N)=NO)CO[Si](C(C)C)(C(C)C)C(C)C | C18H33N3O2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 0.92 mmol, 0.92 ml | O1CCCC1 | C4H8O
product | {5-[5-(3-Chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]-6-ethylpyridin-2-yl}methanol | ClC=1C=C(C=CC1CC(C)C)C1=NC(=NO1)C=1C=CC(=NC1CC)CO | C20H22ClN3O2
